US06797451B2
Preparation of Glycidyl Methacrylate Monomer
Methacrylic acid (34.4 g, 0.4 mole) was dissolved in 50 g (0.63 mole) of pyridine anhydride. The exothermic reaction was cooled by placing the reaction vessel in a liquid nitrogen-isopropyl alcohol bath. Thereafter, 50.8 g (0.55 mole) of epichlorohydrin was added dropwise. The cooling bath was removed, and the reaction mixture was stirred at room temperature for over 36 hours. The reaction was monitored using TLC. The reaction mixture was transferred to a separatory funnel, neutralized using 1 N aqueous sulfuric acid solution, and extracted with dichloromethane. The organic layer was washed with deionized water, concentrated under reduced pressure, and purified by distillation under reduced pressure to provide the product (yield 73%).

reactant | Methacrylic acid | 0.4 mole, 34.4 g | C(C(=C)C)(=O)O | C4H6O2
reactant | epichlorohydrin | 0.55 mole, 50.8 g | C(Cl)C1CO1 | C3H5ClO
product | Glycidyl Methacrylate | yield 73% | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
